US09388189B2
(S)-2-(1-((5-(2-Methoxy-5-(trifluoromethyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.17 mmol) was treated with (2-methoxy-5-(trifluoromethyl)phenyl)boronic acid (89 mg, 0.40 mmol), sodium carbonate (43 mg, 0.40 mmols) and bis(triphenylphosphine)palladium(II) dichloride (12 mg, 0.02 mmol) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100%, dichloromethane-ethyl acetate) to give 99 mg (85% yield) of the title compound. Purity 100%.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 100 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | (2-methoxy-5-(trifluoromethyl)phenyl)boronic acid | 0.40 mmol, 89 mg | COC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C8H8BF3O3
reactant | sodium carbonate | 0.40 mmols, 43 mg | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.02 mmol, 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (S)-2-(1-((5-(2-Methoxy-5-(trifluoromethyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 99 mg, 85% yield | COC1=C(C=C(C=C1)C(F)(F)F)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H38F3N7O3Si
